US04175135
Preparation of 2-Diazodecalin-1,3-dione
A solution of 10.0 g (0.0768 mol) of decalin-1,3-dione in 50 ml of ethanol was magnetically stirred under nitrogen and cooled to -10° C. To the solution was added 7.77 g (0.0768 mol) of triethylamine followed by 15.14 g (0.0768 mol) of p-toluenesulfonylazide added all at once. The mixture was stirred for one hour at 0° C., and the solvent removed at reduced pressure at a temperature of less than 40° C. To the residue was added 200 ml of ether, and the ether removed to yield a yellow solid. This was recrystallized from ethanol to give 5.23 g of yellow crystals, mp 81°-83° C.

reactant | decalin-1,3-dione | 0.0768 mol, 10.0 g | C1(CC(CC2CCCCC12)=O)=O | C10H14O2
reactant | triethylamine | 0.0768 mol, 7.77 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonylazide | 0.0768 mol, 15.14 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Diazodecalin-1,3-dione | 5.23 g | [N+](=[N-])=C1C(C2CCCCC2CC1=O)=O | C10H12N2O2
